US08242133B2
To a mixture of 0.47 g of 2-(pyridin-4-yl)-5-(trifluoromethyl)benzoxazole and 5 ml of chloroform, 0.64 g of 65% m-chloroperbenzoic acid was added while ice-cooling. The reaction mixture was stirred while ice-cooling for 30 minutes, and then stirred at room temperature for 1.5 hours. The reaction mixture was diluted with chloroform, and washed with 5% aqueous solution of sodium hydroxide and a saturated sodium chloride solution. Organic layers were dried over anhydrous sodium sulfate, and then concentrated under reduced pressure to give 0.39 g of 4-[5-(trifluoromethyl)benzoxazole-2-yl]pyridine N-oxide (hereinafter, referred to as “active compound 14”).

reactant | 2-(pyridin-4-yl)-5-(trifluoromethyl)benzoxazole | 0.47 g | N1=CC=C(C=C1)C=1OC2=C(N1)C=C(C=C2)C(F)(F)F | C13H7F3N2O
reactant | m-chloroperbenzoic acid | 0.64 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-[5-(trifluoromethyl)benzoxazole-2-yl]pyridine N-oxide | 0.39 g | FC(C=1C=CC2=C(N=C(O2)C2=CC=[N+](C=C2)[O-])C1)(F)F | C13H7F3N2O2
